US07432392B2
4′-Trifluoromethylbiphenyl-2-carboxylic acid (4-benzyloxy-2-dimethylcarbamoylphenyl)amide (1.2 g) was dissolved in MeOH (25 mL)-THF (25 mL), and thereto was added 7.5% palladium carbon (250 mg). The mixture was stirred for 5 hours under hydrogen atmosphere. The reaction solution was filtered through a Celite and the filtrate was concentrated to give 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-4-hydroxyphenyl)amide (1.05 g).

reactant | 4′-Trifluoromethylbiphenyl-2-carboxylic acid (4-benzyloxy-2-dimethylcarbamoylphenyl)amide | 1.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(N(C)C)=O | C30H25F3N2O3
solvent | MeOH | 25 mL | CO | CH4O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | palladium carbon | 250 mg | [C].[Pd]
product | 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-4-hydroxyphenyl)amide | 1.05 g | CN(C(=O)C1=C(C=CC(=C1)O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C23H19F3N2O3
